US07759337B2
A suspension of 3-(1-hydroxyphthalazin-6-yl)-4-methylbenzoic acid (1.0 g, 3.6 mmol) in phosphorous oxychloride (4.9 mL, 54 mmol) was heated at 80° C. for 1 h. The solution was cooled and concentrated. Toluene (10 mL) was added and removed in vacuo. The brown syrup was resuspended in DCM (20 mL) and cooled to 0° C. Diisopropylethylamine (3.1 mL, 18 mmol) followed by cyclopropylamine (3.0 mL, 43 mmol) was added and the mixture was allowed to warm up to RT and stirred for 1 hour. The mixture was concentrated and the crude product was purified by silica gel chromatography (50-100% EtOAc in hexanes) to give 610 mg of 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide as an off-white solid. MS (ES+)=338.1 (M+H)

reactant | 3-(1-hydroxyphthalazin-6-yl)-4-methylbenzoic acid | 3.6 mmol, 1.0 g | OC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)O)C=CC1C | C16H12N2O3
reactant | phosphorous oxychloride | 54 mmol, 4.9 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Diisopropylethylamine | 18 mmol, 3.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylamine | 43 mmol, 3.0 mL | C1(CC1)N | C3H7N
product | 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 610 mg | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C19H16ClN3O
